US07319130B2
DMA-NMPD:
NMPD (ANGUS lot ZD-06024; 13.57 g, 0.10 moles) was dissolved in aqueous DMA (40 wt. percent, 12.6 mL, 4.53 g, 0.10 moles) with stirring at room temperature under nitrogen. Within 30 minutes the solution became very turbid and darker yellow in color. After 5 days at room temperature the reaction mixture was a white, waxy solid. The product was slurried with methanol and toluene, then the solvents were removed by rotary evaporation. The yield of off-white DMA-NMPD was 15.4 g (95 percent). MP was 73-77° C. GC analysis showed 4 area percent of NMPD.

reactant | NMPD | CC(CO)(CO)[N+](=O)[O-] | C4H9NO4
reactant | DMA | 0.10 moles, 12.6 mL, 4.53 g | CC(=O)N(C)C | C4H9NO
reactant | methanol | CO | CH4O
solvent | toluene | C1(=CC=CC=C1)C | C7H8
product | DMA NMPD | CC(=O)N(C)C.CC(CO)(CO)[N+](=O)[O-] | InChI=1S/C4H9NO4.C4H9NO/c1-4(2-6,3-7)5(8)9;1-4(6)5(2)3/h6-7H,2-3H2,1H3;1-3H3
